US08871756B2
2-[4-Chloro-6-(pyridin-2-yloxy)quinolin-2-yl]-2,3,4,5-tetrahydro-1H-2-benzazepine
The mixture of 4-chloro-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-6-ol (200 mg, 0.617 mmol), 2-fluoro-pyridine (180 mg, 1.85 mmol), potassium carbonate (73 mg, 0.53 mmol) and dry dimethylsulfoxide was heated with stirring in a sealed tube for 40 minutes at 130° C. under microwave irradiation. The resulting mixture was cooled to room temperature, then diluted with water (10 mL) and extracted with ethyl acetate (10 mL×2). The combined organic layer was washed with brine (10 mL×3), and then dried over sodium sulfate. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel (ethyl acetate/petroleum ether, 1:5) to give 110 mg of product as a yellow solid (yield was 45%).

reactant | 4-chloro-2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-6-ol | 0.617 mmol, 200 mg | ClC1=CC(=NC2=CC=C(C=C12)O)N1CC2=C(CCC1)C=CC=C2 | C19H17ClN2O
reactant | 2-fluoro-pyridine | 1.85 mmol, 180 mg | FC1=NC=CC=C1 | C5H4FN
reactant | potassium carbonate | 0.53 mmol, 73 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | 2-[4-Chloro-6-(pyridin-2-yloxy)quinolin-2-yl]-2,3,4,5-tetrahydro-1H-2-benzazepine | 110 mg, yield was 45% | ClC1=CC(=NC2=CC=C(C=C12)OC1=NC=CC=C1)N1CC2=C(CCC1)C=CC=C2 | C24H20ClN3O
